US06969716B2
4-Fluoro-3-(trifluoromethyl)acetophenone (2 g, 9.70 mmol) was reacted with selenium dioxide (1.6 g, 14.6 mmol) using the method described in Example 1 to give crude (4-fluoro-3-trifluoromethylphenyl)-oxoacetaldehyde as a yellow oil: m/z (ES+) 221.

reactant | 4-Fluoro-3-(trifluoromethyl)acetophenone | 9.70 mmol, 2 g | CC(=O)C1=CC(=C(C=C1)F)C(F)(F)F | C9H6F4O
reactant | selenium dioxide | 14.6 mmol, 1.6 g | [Se](=O)=O | O2Se
product | (4-fluoro-3-trifluoromethylphenyl)-oxoacetaldehyde | FC1=C(C=C(C=C1)C(C=O)=O)C(F)(F)F | C9H4F4O2
